US05723490
1-Benzyloxycarbonyl-4-phthalimidylpiperidine (1.50 g, 4.27 mmol), prepared in Example 16B, was taken up in 20 mL of ethanol. To this solution was added hydrazine monohydrate (35 mL, 700 mmol) and this mixture was heated at 100° C. for 3 h. Brine solution (40 mL) and 10% aq. K2CO3 (60 mL) were added and the mixture was extracted with 5% MeOH/CHCl3 (3×). The combined extracts were washed with 2N aq. HCl, 2N aq. NaOH, brine solution, dried over Na2SO4 and concentrated to give 0.847 g, (85%) of 4-amino-1-benzyloxycarbonylpiperidine. [1H]-NMR(CDCl3) consistent with structure.

reactant | 1-Benzyloxycarbonyl-4-phthalimidylpiperidine | 4.27 mmol, 1.50 g | C(C1=CC=CC=C1)OC(=O)N1CCC(CC1)N1C(C=2C(C1=O)=CC=CC2)=O | C21H20N2O4
reactant | hydrazine monohydrate | 700 mmol, 35 mL | O.NN
reactant | K2CO3 | 60 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | ethanol | 20 mL | C(C)O | C2H6O
solvent | Brine | 40 mL | [Cl-].[Na+].O
product | 4-amino-1-benzyloxycarbonylpiperidine | 85% | NC1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C13H18N2O2
